* Z:\celera\projects\Simplis\playjoseph\PUGET0\300d\verification\sim_REGULATIONoffset.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 27
.node_map IINREF 34
.node_map mode_stepdown 33
.node_map REF 29
.node_map REF_GMCHARGE 32
.node_map REFconfigurationLSB$0 19
.node_map REFconfigurationLSB$1 20
.node_map REFconfigurationLSB$2 21
.node_map REFconfigurationLSB$3 22
.node_map REFconfigurationLSB$4 23
.node_map REFconfigurationLSB$5 24
.node_map REFconfigurationLSB$6 25
.node_map REFconfigurationLSB$7 26
.node_map enable_regulation 31
.node_map REF_GMO 30
.node_map REF_GMV 28
.node_map REFconfigurationMSB$0 15
.node_map REFconfigurationMSB$1 16
.node_map REFconfigurationMSB$2 17
.node_map REFconfigurationMSB$3 18
.node_map GND 35
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 100.0u  0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000
.globalvar  celera_i2c_frequency_KHz=100


X$REGULATIONoffset 27 29 31 33 15 16 17 18 19 20 21 22 23 24 25 26 28 30 32 34 REGULATIONoffset
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playjoseph\PUGET0\300d\verification\FORCE_REGULATIONoffset.sxcmp


** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301B\design\REGULATIONoffset.sxcmp
.subckt REGULATIONoffset 79 80 81 82 47 48 49 50 63 64 65 66 67 68 69 70 83 84 85 86
*#hierarchy
.node_map REFconfigurationLSB$10 73
.node_map SIMPV 79
.node_map REFconfigurationLSB$11 74
.node_map REFconfigurationLSB$12 75
.node_map REFconfigurationLSB$13 76
.node_map REFconfigurationLSB$14 77
.node_map REFconfigurationLSB$15 78
.node_map IINREF 86
.node_map mode_stepdown 82
.node_map REF 80
.node_map REF_GMCHARGE 85
.node_map REFconfigurationLSB$0 63
.node_map REFconfigurationLSB$1 64
.node_map REFconfigurationLSB$2 65
.node_map REFconfigurationLSB$3 66
.node_map REFconfigurationLSB$4 67
.node_map REFconfigurationLSB$5 68
.node_map REFconfigurationLSB$6 69
.node_map REFconfigurationLSB$7 70
.node_map REFconfigurationLSB$8 71
.node_map REFconfigurationLSB$9 72
.node_map enable_regulation 81
.node_map REF_GMO 84
.node_map REF_GMV 83
.node_map REFconfigurationMSB$0 47
.node_map REFconfigurationMSB$1 48
.node_map REFconfigurationMSB$2 49
.node_map REFconfigurationMSB$3 50
.node_map REFconfigurationMSB$4 51
.node_map REFconfigurationMSB$5 52
.node_map REFconfigurationMSB$6 53
.node_map REFconfigurationMSB$7 54
.node_map REFconfigurationMSB$8 55
.node_map REFconfigurationMSB$9 56
.node_map REFconfigurationMSB$10 57
.node_map REFconfigurationMSB$11 58
.node_map REFconfigurationMSB$12 59
.node_map REFconfigurationMSB$13 60
.node_map REFconfigurationMSB$14 61
.node_map REFconfigurationMSB$15 62
X$DEBUG 83 84 85 86 REGULATIONoffsetDEBUG
X$MAIN 79 80 81 82 63 64 65 66 67 68 69 70 47 48 49 50 83 84 85 86 REGULATIONoffsetMAIN
X$pinprobe1 83 pinprobe vars: pinprobe_description='VCAP_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe10 82 pinprobe vars: pinprobe_description='Controller_in_stepdown_mode' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 47 48 49 50 51 52 53 54 55 56 57 58 59 60 61 62 pinprobeBUS vars: pinprobe_description='Add_offset_to_GMx_reference_MSB' pinprobe_mode='input' pinprobe_input='datamap' pinprobe_output='tbd' pinprobe_bits=4
X$pinprobe3 86 pinprobe vars: pinprobe_description='Input_current_Reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 85 pinprobe vars: pinprobe_description='Charge_current_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe5 84 pinprobe vars: pinprobe_description='OUT_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe6 63 64 65 66 67 68 69 70 71 72 73 74 75 76 77 78 pinprobeBUS vars: pinprobe_description='Add_offset_to_GMx_reference_LSB' pinprobe_mode='input' pinprobe_input='datamap' pinprobe_output='tbd' pinprobe_bits=8
X$pinprobe7 81 pinprobe vars: pinprobe_description='enable_regualtion' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$U1 79 pinprobe vars: pinprobe_description='Low_voltage_input_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U2 46 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='text' description1='text' description2='text' description3='text' description4='text' description5='text' description6='text' description7='text' description8='text' description9='text' description10='text'
X$U8 80 pinprobe vars: pinprobe_description='Referecne_input_1.2V' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
.ends REGULATIONoffset

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301B\design\REGULATIONoffsetDEBUG.sxcmp
.subckt REGULATIONoffsetDEBUG 13 14 15 16
*#hierarchy
.node_map IINREF 16
.node_map REF_GMCHARGE 15
.node_map REF_GMO 14
.node_map REF_GMV 13
X$pinprobe1 13 pinprobe vars: pinprobe_description='VCAP_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 16 pinprobe vars: pinprobe_description='Input_current_Reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 15 pinprobe vars: pinprobe_description='Charge_current_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe5 14 pinprobe vars: pinprobe_description='OUT_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$UREGULATIONoffsetCHARGE 15 dftprobeModel3 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='REGULATIONoffsetCHARGE' dftprobe_description='Measure_ICHARGE_reference_offset' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$UREGULATIONoffsetGMO 14 dftprobeModel3 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='REGULATIONoffsetGMO' dftprobe_description='Measure_GMO_reference_offset' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$UREGULATIONoffsetGMV 13 dftprobeModel3 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='REGULATIONoffsetGMV' dftprobe_description='Measure_GMV_reference_offset' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$UREGULATIONoffsetIIN 16 dftprobeModel3 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='REGULATIONoffsetIIN' dftprobe_description='Measure_IIN_reference_offset' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
.ends REGULATIONoffsetDEBUG

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301B\design\REGULATIONoffsetMAIN.sxcmp
.subckt REGULATIONoffsetMAIN 157 158 159 160 137 138 139 140 141 142 143 144 145 146 147 148 161 162 163 164
*#hierarchy
.node_map RGCHARGEconfig$2 156
.node_map SIMPV 157
.node_map REFconfiguration$10 147
.node_map enableBAR 182
.node_map REFconfiguration$11 148
.node_map RGMV 168
.node_map RMUXV 166
.node_map REFconfiguration$12 149
.node_map REFconfiguration$13 150
.node_map REFconfiguration$14 151
.node_map REFconfiguration$15 152
.node_map select_stepdown 169
.node_map IINREF 164
.node_map RGMCHARGE 175
.node_map mode_stepdown 160
.node_map mode_stepup 184
.node_map REF 158
.node_map REFBUF 165
.node_map RMUXCHARGE 174
.node_map ok_offset 181
.node_map REF_GMCHARGE 163
.node_map ok_currentgenerator 173
.node_map enable_regulation 159
.node_map RMVconfig$2 153
.node_map ok_buffer 167
.node_map REF_GMO 162
.node_map REF_GMV 161
.node_map REFconfiguration$0 137
.node_map RGMINconfig$2 155
.node_map REFconfiguration$1 138
.node_map REFconfiguration$2 139
.node_map RMUXIN 177
.node_map REFconfiguration$3 140
.node_map enable 179
.node_map REFconfiguration$4 141
.node_map REFconfiguration$5 142
.node_map REFconfiguration$6 143
.node_map REFconfiguration$7 144
.node_map REFconfiguration$8 145
.node_map REFconfiguration$9 146
.node_map RGMIN 176
.node_map ok0 180
.node_map ok1 183
.node_map enable_offset 178
.node_map RMOconfig$2 154
.node_map select_stepup 172
.node_map RMUXO 171
.node_map RGMO 170
X$amux1 165 168 166 157 145 amux2 vars: amux_control='pin' amux_datasheet_name='text' amux_datasheet_description='text' amux_tswitch='no' amux_inputs=2 amux_por=0 amux_ron=1K amux_vmax=6
X$amux2 165 170 171 157 148 amux2 vars: amux_control='pin' amux_datasheet_name='text' amux_datasheet_description='text' amux_tswitch='no' amux_inputs=2 amux_por=0 amux_ron=1K amux_vmax=6
X$amux3 165 176 177 157 147 amux2 vars: amux_control='pin' amux_datasheet_name='text' amux_datasheet_description='text' amux_tswitch='no' amux_inputs=2 amux_por=0 amux_ron=1K amux_vmax=6
X$amux4 165 175 174 157 146 amux2 vars: amux_control='pin' amux_datasheet_name='text' amux_datasheet_description='text' amux_tswitch='no' amux_inputs=2 amux_por=0 amux_ron=1K amux_vmax=6
X$currentgenerator1 168 175 176 170 125 126 127 128 157 159 173 124 currentgenerator vars: currentgenerator_polarity0='sink' currentgenerator_polarity1='sink' currentgenerator_polarity2='sink' currentgenerator_polarity3='sink' currentgenerator_polarity4='sink' currentgenerator_polarity5='sink' currentgenerator_polarity6='sink' currentgenerator_polarity7='sink' currentgenerator_accuracy='no' currentgenerator_datasheet_accuracy_name='text' currentgenerator_datasheet_accuracy_description='text' currentgenerator_tempco='zero' currentgenerator_dft='no' currentgenerator_output0=1.5 currentgenerator_output1=7 currentgenerator_output2=7 currentgenerator_output3=2.5 currentgenerator_output4=1 currentgenerator_output5=1 currentgenerator_output6=1 currentgenerator_output7=1 currentgenerator_number=4 currentgenerator_tempco_gain=3 currentgenerator_vmax=6 currentgenerator_vout=6
X$pinprobe1 161 pinprobe vars: pinprobe_description='VCAP_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe10 160 pinprobe vars: pinprobe_description='Controller_in_stepdown_mode' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 137 138 139 140 141 142 143 144 145 146 147 148 149 150 151 152 pinprobeBUS vars: pinprobe_description='Add_offset_to_GMx_reference' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=12
X$pinprobe3 164 pinprobe vars: pinprobe_description='Input_current_Reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 163 pinprobe vars: pinprobe_description='Charge_current_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe5 162 pinprobe vars: pinprobe_description='OUT_GM_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe7 159 pinprobe vars: pinprobe_description='enable_regualtion' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$resistor1 168 165 118 120 122 137 138 153 resistor vars: resistor_control='adjustable_resistor' resistor_datasheet_accuracy_name='GMVoffsetAccuracy' resistor_datasheet_accuracy_description='Measure_GMV_offset_accuracy' resistor_adjust_control='pin' resistor_datasheet_adjust_name='text' resistor_datasheet_adjust_description='text' resistor_kelvin='no' resistor_type='tbd' resistor_dft='no' resistor_value=200 resistor_accurate_value=10 resistor_accurate_lsb=2 resistor_adjust0=5 resistor_adjust1=7 resistor_adjust2=10 resistor_adjust3=15 resistor_adjust4=0 resistor_adjust5=0 resistor_adjust6=0 resistor_adjust7=0 resistor_adjust_por=0 resistor_1=0 resistor_0=0 resistor_vmax=6 resistor_maximumvoltage=6 resistor_imax=1m
X$resistor2 170 165 119 121 123 143 144 154 resistor vars: resistor_control='adjustable_resistor' resistor_datasheet_accuracy_name='GMVoffsetAccuracy' resistor_datasheet_accuracy_description='Measure_GMV_offset_accuracy' resistor_adjust_control='pin' resistor_datasheet_adjust_name='text' resistor_datasheet_adjust_description='text' resistor_kelvin='no' resistor_type='tbd' resistor_dft='no' resistor_value=200 resistor_accurate_value=10 resistor_accurate_lsb=2 resistor_adjust0=6 resistor_adjust1=8 resistor_adjust2=10 resistor_adjust3=12 resistor_adjust4=0 resistor_adjust5=0 resistor_adjust6=0 resistor_adjust7=0 resistor_adjust_por=0 resistor_1=0 resistor_0=0 resistor_vmax=6 resistor_maximumvoltage=6 resistor_imax=1m
X$resistor3 176 165 129 131 133 141 142 155 resistor vars: resistor_control='adjustable_resistor' resistor_datasheet_accuracy_name='GMVoffsetAccuracy' resistor_datasheet_accuracy_description='Measure_GMV_offset_accuracy' resistor_adjust_control='pin' resistor_datasheet_adjust_name='text' resistor_datasheet_adjust_description='text' resistor_kelvin='no' resistor_type='tbd' resistor_dft='no' resistor_value=200 resistor_accurate_value=10 resistor_accurate_lsb=2 resistor_adjust0=10 resistor_adjust1=15 resistor_adjust2=20 resistor_adjust3=25 resistor_adjust4=0 resistor_adjust5=0 resistor_adjust6=0 resistor_adjust7=0 resistor_adjust_por=0 resistor_1=0 resistor_0=0 resistor_vmax=6 resistor_maximumvoltage=6 resistor_imax=1m
X$resistor5 175 165 130 132 134 139 140 156 resistor vars: resistor_control='adjustable_resistor' resistor_datasheet_accuracy_name='GMVoffsetAccuracy' resistor_datasheet_accuracy_description='Measure_GMV_offset_accuracy' resistor_adjust_control='pin' resistor_datasheet_adjust_name='text' resistor_datasheet_adjust_description='text' resistor_kelvin='no' resistor_type='tbd' resistor_dft='no' resistor_value=200 resistor_accurate_value=10 resistor_accurate_lsb=2 resistor_adjust0=10 resistor_adjust1=15 resistor_adjust2=20 resistor_adjust3=25 resistor_adjust4=0 resistor_adjust5=0 resistor_adjust6=0 resistor_adjust7=0 resistor_adjust_por=0 resistor_1=0 resistor_0=0 resistor_vmax=6 resistor_maximumvoltage=6 resistor_imax=1m
X$switch1 171 162 172 switchgnd vars: switch_type='gnd' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch2 177 164 169 switchgnd vars: switch_type='gnd' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch3 166 161 169 switchgnd vars: switch_type='gnd' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch4 174 163 169 switchgnd vars: switch_type='gnd' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$U1 157 pinprobe vars: pinprobe_description='Low_voltage_input_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U10 181 172 183 VESPAasmINPUT1
X$U11 173 136 182 nor2 vars: logicgate_type='nor2' logicgate_vmax=6
X$U12 136 181 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U13 179 182 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U14 116 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='text' description1='text' description2='text' description3='text' description4='text' description5='text' description6='text' description7='text' description8='text' description9='text' description10='text'
X$U2 145 148 147 135 146 nor4 vars: logicgate_type='nor4' logicgate_vmax=6
X$U3 135 178 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U4 167 180 160 159 VESPAasmINPUT2
X$U5 159 179 178 VESPAasmINPUT1
X$U6 167 183 184 159 VESPAasmINPUT2
X$U7 160 184 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U8 158 pinprobe vars: pinprobe_description='Referecne_input_1.2V' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U9 181 169 180 VESPAasmINPUT1
X$vbuffer1 157 167 158 165 159 117 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='yes' vbuffer_dft='no' vbuffer_gain=1 vbuffer_feedbackimpedance=100 vbuffer_vmax=6
.ends REGULATIONoffsetMAIN

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT2.sxcmp
.subckt VESPAasmINPUT2 7 8 9 6
*#hierarchy
.node_map Tstate 6
.node_map i0 7
.node_map i1 9
.node_map o 8
X$U1 6 pinprobe vars: pinprobe_description='state_blank_time'
X$U2 9 pinprobe vars: pinprobe_description='input1'
X$U3 8 pinprobe vars: pinprobe_description='INPUT1_output'
X$U4 6 9 5 7 nand3 vars: logicgate_type='nand3' logicgate_vmax=6
X$U5 5 8 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U6 7 pinprobe vars: pinprobe_description='input0'
.ends VESPAasmINPUT2

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT1.sxcmp
.subckt VESPAasmINPUT1 5 6 7
*#hierarchy
.node_map Tstate 5
.node_map i0 7
.node_map o 6
X$U1 5 pinprobe vars: pinprobe_description='state_blank_time'
X$U2 7 pinprobe vars: pinprobe_description='input1'
X$U3 6 pinprobe vars: pinprobe_description='INPUT1_output'
X$U4 5 4 7 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U5 4 6 inv vars: logicgate_type='inv' logicgate_vmax=6
.ends VESPAasmINPUT1

.end
